US04376777
In 80 ml of toluene is dissolved 5.9 g of 2,4,5-trimethoxybenzaldehyde, followed by addition of 4.8 g of diethyl malonate, 0.3 ml of piperidine and 0.3 g of benzoic acid. The mixture is heated under reflux for 4 hours, water being removed via an ester tube. After cooling, the solvent is distilled off under reduced pressure and the residual crystals are recovered by filtration with n-hexane to give 8.9 g (87.3%) of diethyl 2,4,5-trimethoxybenzylidenemalonate, m.p. 86°-87° C.

reactant | 2,4,5-trimethoxybenzaldehyde | 5.9 g | COC1=C(C=O)C=C(C(=C1)OC)OC | C10H12O4
reactant | diethyl malonate | 4.8 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | piperidine | 0.3 ml | N1CCCCC1 | C5H11N
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
catalyst | benzoic acid | 0.3 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
product | diethyl 2,4,5-trimethoxybenzylidenemalonate | 8.9 g, 87.3% | COC1=C(C=C(C(=O)OCC)C(=O)OCC)C=C(C(=C1)OC)OC | C17H22O7
